US03957772
To 800 ml of chloroform is added 118 grams (1.12 moles) of 3-amino-5-methylisoxazole followed by 118 grams (1.5 moles) of pyridine. To this solution is added 147 grams (1.3 moles) of chloroacetylchloride with the addition temperature maintained at 0°-10°C. The reaction is then stirred at room temperature for 1 hour, filtered and dried in a vacuum desiccator to give 116 grams (56%) of 3-(chloroacetamido)-5-methylisoxazole, mp 192°-195°C. This material is slightly irritating to the skin and due caution should be exercised.

reactant | 3-amino-5-methylisoxazole | 1.12 moles, 118 grams | NC1=NOC(=C1)C | C4H6N2O
reactant | pyridine | 1.5 moles, 118 grams | N1=CC=CC=C1 | C5H5N
reactant | chloroacetylchloride | 1.3 moles, 147 grams | ClCC(=O)Cl | C2H2Cl2O
solvent | chloroform | 800 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-(chloroacetamido)-5-methylisoxazole | 116 grams, 56% | ClCC(=O)NC1=NOC(=C1)C | C6H7ClN2O2
